US05512565
4-Methyl-1-piperidinecarboxylic acid 2-cyano-4-phenoxyphenyl ester
4-Methyl-1-piperidinecarbonyl chloride (1.18 ml, 8.01 mmol) was added under a nitrogen atmosphere at room temperature to a solution of 2-hydroxy-5-phenoxybenzonitrile (1.53 g, 7.26 mmol) and 4-dimethylaminopyridine (0.976 g, 7.99 mmol) in 50 ml of benzene and the resulting solution refluxed for 1 hour. The reaction mixture was washed with 1N HCl. The benzene layer was separated, dried (anhydrous MgSO4) and the solvent removed under reduced pressure to give 2.57 g of a white crystalline solid. Recrystallization of this solid from diisopropyl ether-hexane gave the title compound as a white crystalline solid (1.59 g, 65%), mp 54°-58° C.

reactant | 4-Methyl-1-piperidinecarbonyl chloride | 8.01 mmol, 1.18 ml | CC1CCN(CC1)C(=O)Cl | C7H12ClNO
reactant | 2-hydroxy-5-phenoxybenzonitrile | 7.26 mmol, 1.53 g | OC1=C(C#N)C=C(C=C1)OC1=CC=CC=C1 | C13H9NO2
catalyst | 4-dimethylaminopyridine | 7.99 mmol, 0.976 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 4-Methyl-1-piperidinecarboxylic acid 2-cyano-4-phenoxyphenyl ester | 2.57 g | C(#N)C1=C(C=CC(=C1)OC1=CC=CC=C1)OC(=O)N1CCC(CC1)C | C20H20N2O3
